US07723331B2
c) tert-Butyl 4-{[6-(hydroxymethyl)pyridin-2-yl]oxy}piperidine-1-carboxylate
To a solution of tert-butyl 4-{[6-({[tert-butyl(dimethyl)silyl]oxy}methyl)pyridin-2-yl]oxy}piperidine-1-carboxylate (0.50 g, 1.18 mmol) in THF (8 mL) was added tetrabutylammonium fluoride (1.78 mL, 1.0 M in THF, 1.78 mmol). The resulting mixture was stirred at room temperature for 1 hour, concentrated and purified by flash chromatography using a gradient run from 5-100% EtOAc in toluene. The selected fractions were concentrated in vacuo to give the product as a clear oil. Yield: 0.34 g (93%). 1H NMR (400 MHz, CDCl3) δ 7.54 (t, 1H, J=7.66 Hz), 6.78 (d, 1H, J=7.26 Hz), 6.59 (d, 1H, J=8.16 Hz), 5.15-5.26 (m, 1H), 4.62 (s, 2H), 3.66-3.77 (m, 2H), 3.25-3.37 (m, 3H), 1.89-1.99 (m, 2H), 1.59-1.82 (m, 2H), 1.45 (s, 9H).

reactant | tert-butyl 4-{[6-({[tert-butyl(dimethyl)silyl]oxy}methyl)pyridin-2-yl]oxy}piperidine-1-carboxylate | 1.18 mmol, 0.50 g | [Si](C)(C)(C(C)(C)C)OCC1=CC=CC(=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C22H38N2O4Si
reactant | tetrabutylammonium fluoride | 1.78 mmol, 1.0 M, 1.78 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | tert-Butyl 4-{[6-(hydroxymethyl)pyridin-2-yl]oxy}piperidine-1-carboxylate | OCC1=CC=CC(=N1)OC1CCN(CC1)C(=O)OC(C)(C)C | C16H24N2O4
